data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21](C#N)[C:22](=[O:23])CC1=CC=CC=C1.[OH-:10]>>[H:20][OH:10].C1=CC=C(C=C1)C[C:22](=[CH:21]C#N)[O-:23] 10=20;22,23=23;20,21=21,22
CC1=C2CCC(=O)C2(CC[C:20]1=[NH+:21]C(C(C)C)C(=O)O)C.[OH2:10].CC(C)C(C(=O)[O-])N>>CC1=C2CCC(=O)C2(CC[C:20]1([NH:21]C(C(C)C)C(=O)O)[OH2+:10])C.CC(C)C(C(=O)[O-])N 10=20;20,21=21
C[OH:10].CO[CH:20]=[NH2+:21].[Cl-]>>C[OH+:10][CH:20]([NH2:21])OC.[Cl-] 10=20;20,21=21
C1CO[C:20](=[O:21])N1.[OH-:10]>>C1CO[C:20](N1)([OH:10])[O-:21] 10=20;20,21=21
[Li:11][C:10]1=CC=CC=C1.C1CC2(CCC1[C:20](=[O:21])C3=CC=CC=C3)OCCO2>>C1CC2(CCC1[C:20](C3=CC=CC=C3)([C:10]4=CC=CC=C4)[O-:21])OCCO2.[Li+:11] 10,11=10,20;20,21=21
[B:20](F)(F)F.CC(C)(C)[Si](C)(C)OC(C=[O:10])C1CCCCC1>>[B-:20]([O+:10]=CC(C1CCCCC1)O[Si](C)(C)C(C)(C)C)(F)(F)F 10=20,
[H:20][CH:21]([C:22](=[O:23])C1=CC(=CC=C1)Br)C(C)(C2=CC(=CC=C2)Br)O.CC[O-:10]>>[H:20][O:10]CC.CC([CH:21]=[C:22](C1=CC(=CC=C1)Br)[O-:23])(C2=CC(=CC=C2)Br)O 10=20;22,23=23;20,21=21,22
[B-]([O+:21](C=CC=CCCCC)[CH:20](C)[O:10]CC)(F)(F)F>>[B-]([O:21]C=CC=CCCCC)(F)(F)F.CC[O+:10]=[CH:20]C 10=20;20,21=21
[H:20][O+:21]=C(CCC(=O)OC(=O)C)NCC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCNC(=[O:21])CCC(=O)OC(=O)C 10=20;20,21=21
CCOC(=O)C(=O)CC(C1=CC=CC=C1)[C:20](C2=NC3=C(C=CC=C3)C=C2)([C:21]4=[N+](N=C5N4C(CC5F)C(C)C)C6=C(C(=C(C(=C6F)F)F)F)F)[O-:10].[B-](F)(F)(F)F.CC[NH+](C(C)C)C(C)C>>CCOC(=O)C(=O)CC(C1=CC=CC=C1)[C:20](=[O:10])C2=NC3=C(C=CC=C3)C=C2.CC(C)C1CC(C2=N[N+](=[C-:21]N12)C3=C(C(=C(C(=C3F)F)F)F)F)F.[B-](F)(F)(F)F.CC[NH+](C(C)C)C(C)C 10=20;20,21=21
[Li:11][CH3:10].C[C:20](=[O:21])C1CCC(=CC1)O[Si](C)(C)C>>C[C:20]([CH3:10])(C1CCC(=CC1)O[Si](C)(C)C)[O-:21].[Li+:11] 10,11=10,20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCC(=[NH:10])OCC>>[H:20][NH+:10]=C(CC)OCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
C[C:11](=[O:10])[O-:12].C[C:20](=[O:21])Cl>>C[C:11](=[O:12])[O:10][C:20](C)([O-:21])Cl 10,11=10,20;20,21=21;12=11
[H:20][Br:21].CC1(CC[CH:10]=[C:11]1C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1CCC([C+:11]1C2=CC=CC=C2)(C)C3=CC=CC=C3.[Br-:21] 10,11=10,20;20,21=21
[H:20][N+:21](C)(C)C.COC(=O)C1C2CCC(C2)[NH+]1C[CH-:10]C#N>>[H:20][CH:10](C[NH+]1C2CCC(C2)C1C(=O)OC)C#N.C[N:21](C)C 10=20;20,21=21
C[C+:20]=O.C1=CC2=CC=C(C=C2[CH:10]=[CH:11]1)C(F)(F)F>>C[C:20](=O)[CH:10]1[CH+:11]C=CC2=CC=C(C=C12)C(F)(F)F 10,11=10,20
[H:20][Br:21].CC1(CC[CH:10]=[C:11]1C2=CC=CC=C2)C>>[H:20][CH:10]1CCC([C+:11]1C2=CC=CC=C2)(C)C.[Br-:21] 10,11=10,20;20,21=21
[H:20][NH+:21]1C(=CCC1(CCC2=CC=CC=C2)[O-])C.[NH3:10].CO.O>>[H:20][NH3+:10].CC1=CCC([NH:21]1)(CCC2=CC=CC=C2)[O-].CO.O 10=20;20,21=21
[H:20][O+:21]=C(CC=CC1=CC=CC=C1)OC.CC(=O)[O-:10].C1CCNCC1.C(=O)=O.O>>[H:20][O:10]C(=O)C.COC(=[O:21])CC=CC1=CC=CC=C1.C1CCNCC1.C(=O)=O.O 10=20;20,21=21
CO[C:13]1=[CH:12][CH:11]=[CH:10]C(=C1)[N+](=O)[O-].[Br:20][Br:21]>>CO[C+:13]1[CH:12]=[CH:11][CH:10](C(=C1)[N+](=O)[O-])[Br:20].[Br-:21] 10,11=10,20;20,21=21;12,13=11,12
CC[C:20](NCC)([N+:21]1=CN(C=C1)C)[O-:10].CC[NH3+].C1=CC(=CC=C1[N+](=O)[O-])[O-]>>CC[C:20](=[O:10])NCC.CN1C=C[N:21]=C1.CC[NH3+].C1=CC(=CC=C1[N+](=O)[O-])[O-] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=C(C=C2)[N+](=O)[O-])Br.[Br-:10]>>[H:20][Br:10].C1=CC2=C(C=C(C=C2)[N+](=O)[O-])[C:21](=[CH:22]1)Br 10=20;20,21=21,22
CC(=O)O[I:10]1(C2=C(C=CC=C2)C(=O)O1)(OC3COC4C(C3N=[N+]=[N-])OC(C4OCC5=CC=C(C=C5)OC)C6=C(N=C(N=C6)OC)OC)[O:11]C(=O)C.CC(=O)O>>CC(=O)[O-:11].CC(=O)O[I+:10]1(C2=C(C=CC=C2)C(=O)O1)OC3COC4C(C3N=[N+]=[N-])OC(C4OCC5=CC=C(C=C5)OC)C6=C(N=C(N=C6)OC)OC.CC(=O)O 10,11=11
C[CH2:20][Br:21].C[CH:10]=[C:11](C)[O-:12]>>C[CH2:20][CH:10](C)[C:11](=[O:12])C.[Br-:21] 10,11=10,20;20,21=21;12=11
[CH3:10][Mg:11]Br.[Mg]([P+:20](Cl)(Cl)Cl)Br>>[CH3:10][P:20]([Mg]Br)(Cl)(Cl)Cl.[Mg+:11]Br 10,11=10,20
C[OH+:21][Cl:20].C[Si](C)(C)C=[C:11]=[CH2:10]>>C[OH:21].C[Si](C)(C)C=[C+:11][CH2:10][Cl:20] 10,11=10,20;20,21=21
[H:20][OH:21].CCOC(=O)CC(C)([NH3+])[O-:10].CCO.CCOC(=O)C(=CC1=C(ON=C1C)CCC2=CC(=CC=C2)Br)C(=O)C>>[H:20][O:10]C(C)(CC(=O)OCC)[NH3+].[OH-:21].CCO.CCOC(=O)C(=CC1=C(ON=C1C)CCC2=CC(=CC=C2)Br)C(=O)C 10=20;20,21=21
[H:20][O+:21]=C(C1=C(C=CC=C1)C(=O)O)O.[OH2:10].C1=CC=C(C=C1)CN>>C1=CC(=C(C=C1)C(=O)O)C(=[O:21])O.[H:20][OH2+:10].C1=CC=C(C=C1)CN 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)C(C)(C)C)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22][CH:23]=[C:24](C=C1)C(C)(C)C 10=20;20,21=21,22;22,23=23,24
C[CH:20]=[O:21].CC(C(C[N+](C)(C)C)C=O)[O-:10]>>CC(C(C[N+](C)(C)C)C=O)[O:10][CH:20](C)[O-:21] 10=20;20,21=21
C[C:20](CCC=C=[N-])([NH+:21]1CCCC1)[OH:10]>>C[C:20](=[OH+:10])CCC=C=[N-].C1CC[NH:21]C1 10=20;20,21=21
CCC[OH+:11][Na:10]>>CCC[OH:11].[Na+:10] 10,11=11
[H:20][O:21]C12CC3=COC=C3C=C1CC(CC2OS(=O)(=O)C4=CC=C(C=C4)C)(C)C.CN(C)C1=CC=[N:10]C=C1.C1=CC=[NH+]C=C1.[Cl-]>>[H:20][N+:10]1=CC=C(C=C1)N(C)C.CC1=CC=C(C=C1)S(=O)(=O)OC2CC(CC3=CC4=COC=C4CC23[O-:21])(C)C.C1=CC=[NH+]C=C1.[Cl-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCNCC=C(NCC)[O-:10]>>[H:20][O:10]C(=CCNCC)NCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][OH+:21]P(C)(C)(C)Br.[OH2:10]>>[H:20][OH2+:10].CP(C)(C)([OH:21])Br 10=20;20,21=21
